US07759337B2
A mixture of N-cyclopropyl-4-methyl-3-(1-morpholinophthalazin-6-yl)benzamide (85 mg, 0.22 mmol) and Lawesson's reagent (97 mg, 0.24 mmol) in 1 mL THF was heated at 150° C. for 10 min in a microwave oven. Volatile solvents were removed under reduced pressure and the brown residue was purified on an ISCO column (12 g, eluted with 1-10% MeOH in ethyl acetate) to provide N-cyclopropyl-4-methyl-3-(l-morpholinophthalazin-6-yl)benzothioamide as a yellow solid. Found MS (ESI+) m/z: 405.3 (M+1).

reactant | N-cyclopropyl-4-methyl-3-(1-morpholinophthalazin-6-yl)benzamide | 0.22 mmol, 85 mg | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1)=O | C23H24N4O2
reactant | Lawesson's reagent | 0.24 mmol, 97 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | N-cyclopropyl-4-methyl-3-(l-morpholinophthalazin-6-yl)benzothioamide | C1(CC1)NC(C1=CC(=C(C=C1)C)C=1C=C2C=NN=C(C2=CC1)N1CCOCC1)=S | C23H24N4OS
